US06384080B1
Iodomethane (554 mg) was added to a suspension of (S)-2-(benzyloxycarbonylamino)-3-(tert-butoxycarbonylamino)propionoic acid (1.1 g) and potassium carbonate (539 mg) in N,N-dimethylformamide (7 mL). The mixture was stirred for 2 hours at ambient temperature and partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over magnesium sulfate and concentrated in vacuo to give methyl (S)-2-(benzyloxycarbonylamino)-3-(tert-butoxycarbonylamino)propionate (1.2 g) as an oil.

reactant | Iodomethane | 554 mg | IC | CH3I
reactant | (S)-2-(benzyloxycarbonylamino)-3-(tert-butoxycarbonylamino)propionoic acid | 1.1 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CNC(=O)OC(C)(C)C | C16H22N2O6
reactant | potassium carbonate | 539 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | methyl (S)-2-(benzyloxycarbonylamino)-3-(tert-butoxycarbonylamino)propionate | 1.2 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)CNC(=O)OC(C)(C)C | C17H24N2O6
